Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Iodine
 
Attending: ___.
 
Chief Complaint:
difficulty with speaking, coordination
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr. ___ is a ___ year old right handed man with PMH of focal
epilepsy with complex partial seizures and secondary
generalization who Code Stroke was called because of bilateral
end gaze nystagmus, dysarhtria, and bilateral dysmetria with
finger nose finger. 

Mr. ___ went out with his friends last night.  He reported
that he had 3 beers, but denies that he utilized any other 
drugs.
He reports that he had an event at about 2 AM right before he
fell asleep.  He describes the event as dizziness and a 
sensation
that the world was spinning around him.  He does not know how
long the event lasted.  He denies that there was concomitant
abnormal movement.  He did take his lamotrigine yesterday, but
reports that he did not take it the day before.  He tells me 
that
he takes his lamotrigine nintey percent of the time.    
H
e does not remember much of what went on this morning, so I
depended on his mother, whom he lives with, for history.  He can
only tell me that he felt very uncoordinated when he woke up. 
His mother tells me that she went to her son's room at about 
8:30
in the morning and awoke him from sleep and he seemed normal. 
She just asked him if he wanted to go get coffee so the
interaction was brief.  He agreed to meet her for coffee.  She
left home and walked to the coffee shop on her own.  He did not
show up to the coffee shop so she called him over and over, but
he did not answer the phone.  She went back to their home at
about 9:00 to 9:30 AM and found Mr. ___ in the restroom
standing and seemingly confused.  His voice was also hard to
understand.  She called EMS and Mr. ___ was brought here by
ambulance.  

The ED called code stroke.  NIHSS was 3 for dysarthria and
bilateral dysmetria.  NCHCT was without bleed.  CTA was without
large vessel occlusion.  We elected not to give TPA because
outside of therapeutic window and because of greater concern for
seizure. 

Mr. ___ was last seen by Dr. ___ in clinic on ___ and
has missed subsequent follow up appointments.  His typical focal
seizure semiology is sensation of falling backwards and visual
distortions.  He last had MRI brain with and without contrast
___ which showed that the left hippocampus is smaller than
the right.  There was no evidence of mesial temporal sclerosis. 
He last had EEG studies in ___.  This was a home study.  The
EEG study was normal, including 7 push button events for
sensation that he was riding on a roller coaster and for
myoclonic jerks during transitions of sleep.  He is prescribed
lamotrigine XR 300 mg twice daily. 

ROS: 
On neurological review of systems, the patient denies headache,
confusion, difficulties producing or comprehending speech, loss
of vision, blurred vision, diplopia, dysarthria, dysphagia,
lightheadedness, vertigo, tinnitus or hearing difficulty. Denies
focal weakness, numbness, parasthesiae. No bowel or bladder
incontinence or retention. Denies difficulty with gait.
 
On general review of systems, the patient denies recent fever, 
chills, night sweats, or recent weight changes. Denies cough,
shortness of breath, chest pain or tightness, palpitations. 
Denies nausea, vomiting, diarrhea, constipation or abdominal
pain.  Denies dysuria, or recent change in bowel or bladder
habits.  Denies arthralgias, myalgias, or rash.

 
Past Medical History:
Focal epilepsy with complex partial seizures and secondary
generalization
Febrile seizures as infant
ADHD (not on treatment)
 
Social History:
___
Family History:
No family history of seizures, no other family history of
neurologic disease. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
General: Comfortable and in no distress 
Head: No irritation/exudate from eyes, nose, throat 
Neck: Supple with no pain to flexion or extension 
Cardio: Regular rate and rhythm, warm, no peripheral edema 
Lungs: Unlabored breathing 
Abdomen: Soft, non tender, non distended 
Skin: No rashes or lesions 

Neurologic:
Mental Status: 
He is awake, appears calm.  He is hard to understand because of
his muffled voice, but there do not appear to be errors in the
use of language.  He can follow commands.  He is oriented to
name, date, and location.  Naming of high and low frequency
objects intact.  He can repeat a phrase that is longer than 10
words.  Left, right differentiation is intact.  No evidence of
apraxia. 

Cranial nerves: 
No visual field cut.  PERRL, 3-2 mm.  EOMI, he does not have
nystagmus on fixation, but on end gaze in both directions has 
non
extinguishing nystagmus.  Facial sensation normal and face
symmetric.  Hearing intact.  His voice is muffled, but not
slurred.  Palate elevates symmetrically.  Shoulders rise
symmetrically.  Tongue protrudes to midline with forceful 
lateral
excursions. 

Motor: 
Thin man.  Normal tone.  No pronator drift. 
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

Sensory: 
No deficits to light touch, pinprick, temperature,  vibration, 
or
proprioception throughout. No extinction to DSS. Romberg absent. 


Reflexes:
He has 5 beats of ankle clonus bilaterally. 
  [Bic] [Tri] [___] [Pat] [Ach]
L   3     3      3      3     3
R   3     3      3      3     3 
Plantar response was mute bilaterally. 

Coordination: 
He has severe dysmetria with finger nose finger and heal to 
shin.
He in inaccurate with tapping index finger to crease of thumb on
both sides.  He is slow and clumbsy with alternating movements 
of
both hands.  I tried to sit him up straight twice and he bobbled
and then fell straight backwards both times.  

Gait:
He refused to walk citing incoordination. 

DISCHARGE PHYSICAL EXAM
VS:Temp: 98.2 PO BP: 122/88 L Lying HR: 102 RR: 18
O2 sat: 97% O2 delivery: Ra 
General: lying in bed
Head: He has 2 broken front teeth
Neck: Supple  
Cardio: well-perfused. tachycardic when anxious
Lungs: Unlabored breathing 
Abdomen: Soft, non tender
Skin: No rashes or lesions 

Neurologic:
Mental Status:
Patient is awake and sitting up in bed. He speaks in full
sentences although he does stutter and there are occasional
pauses in his speech (this is apparently his baseline speech). 
He
is able to follow commands. 

Cranial nerves: 
PERRL 3-2 mm.  EOMI.  Facial sensation normal and face
symmetric.  Hearing intact. Palate elevates symmetrically. 
Shoulders rise symmetrically.  Tongue protrudes to midline.

Motor: 
Normal tone.  No pronator drift.   

Sensory: 
No deficits to light touch. 

Reflexes:
deferred

Coordination: 
mild dysmetria on FNF

Gait:
deferred
 
Pertinent Results:
ADMISSION LABS
___ 10:02AM BLOOD WBC-6.2 RBC-4.60 Hgb-14.7 Hct-44.7 MCV-97 
MCH-32.0 MCHC-32.9 RDW-12.1 RDWSD-43.1 Plt ___
___ 10:02AM BLOOD Plt ___
___ 10:02AM BLOOD Glucose-153* UreaN-13 Creat-1.1 Na-144 
K-3.8 Cl-105 HCO3-22 AnGap-17
___ 10:02AM BLOOD Albumin-4.5 Calcium-9.1 Phos-2.8 Mg-2.2

DISCHARGE LABS
___ 07:00AM BLOOD WBC-7.3 RBC-4.65 Hgb-15.1 Hct-45.7 MCV-98 
MCH-32.5* MCHC-33.0 RDW-12.3 RDWSD-44.4 Plt ___
___ 07:00AM BLOOD Glucose-95 UreaN-8 Creat-1.1 Na-141 K-4.0 
Cl-99 HCO3-28 AnGap-14
___ 07:00AM BLOOD Calcium-10.3 Phos-5.5* Mg-2.5

BRAIN MRI ___
1. No evidence of mesial temporal sclerosis, hippocampal 
asymmetry, or 
structural seizure focus. 
2. No evidence of infarction. 
3. No enhancing brain lesions are seen. 

CTA HEAD AND NECK ___
1. No acute findings.  No infarct. 
2. 2 left supraclinoid ICA small infundibula versus aneurysms.  
Infundibula 
are probably more likely, follow-up 3 tesla MRA in ___ year 
recommended. 
3. Patent head and neck vasculature. 
  
RECOMMENDATION(S):  3 tesla MRA in ___ year 

 
Brief Hospital Course:
Mr. ___ is a ___ year old right handed man with PMH of focal
epilepsy with complex partial seizures and secondary
generalization who presented as a code stroke because of
bilateral end gaze nystagmus, dysarthria, and bilateral 
dysmetria
with finger nose finger.  TPA was not given because outside of
therapeutic window and because of greater concern for seizure
versus drug ingestion.  His ETOH level was elevated at 63 on 
___.

Brain MRI and CTA head/neck showed no acute abnormality. His
mental status appeared intact the morning after admission, 
although he continues to be ataxic with walking. His lamotrigine 
level was elevated on admission to
19.8 (4.0-18.0). His presentation is most likely due to alcohol 
toxicity and
elevated lamotrigine level which may exacerbate side effects.
Social work and addiction social work were consulted for alcohol 
abuse. On ___ he broke his 2 front teeth when he attempted to 
get OOB and hit the siderail. OMFS consulted and recommended 
outpatient dental workup. 

#Epilepsy
MRI with and without contrast showed no acute abnormality
and cvEEG showing no evidence of seizures. He was treated with 
lamotrigine 250 mg BID, reduction from home dose

#Alcohol abuse
Social work consulted. He was continued on Thiamine and 
multivitamin, CIWA valium protocol

#Broken teeth
OMFS consulted and recommended outpatient dental workup

TRANSITIONAL ISSUES
[]follow up repeat Lamotrigine level sent ___
[]follow up vitamin B1 level, pending at time of discharge
[]follow up with neurology epilepsy in clinic
[]consider repeat MRI in ___ year as noted in radiology report 
from this admission
[]follow up with dentist for front teeth
[]continue lamotrigine 250 mg BID 
 
Medications on Admission:
1. LaMICtal XR (lamoTRIgine) 300 mg oral BID 

 
Discharge Medications:
1.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin [Chewable-Vite]  1 tab-cap by mouth once a day 
Disp #*30 Tablet Refills:*0 
2.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*0 
3.  LaMICtal XR (lamoTRIgine) 250 mg oral BID 
RX *lamotrigine [Lamictal XR] 250 mg 1 tablet(s) by mouth twice 
a day Disp #*60 Tablet Refills:*0 
4.Outpatient Physical Therapy
ICD R56.9 Seizure
Rx for physical therapy

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#epilepsy
#alcohol abuse

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

You presented to ___ because you were feeling 
uncoordinated and had difficulty speaking.

While in the hospital, your alcohol level was found to be high. 
The effectiveness of your lamotrigine may be affected by high 
alcohol levels, so you were strongly advised to control your 
drinking. You were seen by our social work team. 

After leaving the hospital, it is important that you continue 
taking your lamotrigine as prescribed. Follow up with your 
neurologist in clinic (more details below). 

We wish you the best,

Your ___ team
 
Followup Instructions:
___